US05037828
b) 1-Benzyloxy-4-(2,3-epoxypropyl)-naphthyl ether
To a solution of 4.3 g. (0.017 mole) 1-hydroxy-4-benzyloxynaphthalene in 15 ml. (0.19 mole) epichlorohydrin, which is heated to its boiling point while stirring, is carefully added dropwise 3.7 ml. 5M aqueous sodium hydroxide solution (0.0187 mole). The apparatus used for carrying out the reaction is equipped with a water separator so that the water distils off azeotropically from the reaction mixture with epichlorohydrin. After distilling off the theoretical amount of water, the reaction mixture is further heated under reflux for 1 hour while stirring, thereafter mixed with 50 ml. toluene, filtered off from inorganic components and the solution evaporated on a rotary evaporator. The product obtained is used for the next reaction step without further purification. Yield 6.1 g.

reactant | 1-hydroxy-4-benzyloxynaphthalene | 0.017 mole | OC1=CC=C(C2=CC=CC=C12)OCC1=CC=CC=C1 | C17H14O2
reactant | epichlorohydrin | 0.19 mole | C(Cl)C1CO1 | C3H5ClO
reactant | sodium hydroxide | 0.0187 mole, 5M | [OH-].[Na+]
solvent | water | O | H2O
product | 1-Benzyloxy-4-(2,3-epoxypropyl)-naphthyl ether | C(C1=CC=CC=C1)OC1=C(C=C(C2=CC=CC=C12)CC1CO1)OC1=C(C2=CC=CC=C2C(=C1)CC1CO1)OCC1=CC=CC=C1 | C40H34O5
